US08466282B2
Tert-butyl (3R,5S)-3-formyl-5-[({5-[(2-methoxyethoxy)methyl]-1-(2-methylphenyl)-1H-1,2,3-triazol-4-yl}carbonyl) (2-methylpropyl)amino]piperidine-1-carboxylate
tert-Butyl (3R,5S)-3-(hydroxymethyl)-5-[({5-[(2-methoxyethoxy)methyl]-1-(2-methylphenyl)-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]piperidine-1-carboxylate (534 mg) and triethylamine (1.1 ml) were dissolved in DMSO, sulfur trioxide-pyridine complex (610 mg) was added and the mixture was stirred at room temperature for 1 day. The reaction mixture was diluted with ethyl acetate and washed with saturated brine. The organic layer was washed successively with 1M hydrochloric acid and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (10:90-100:0) was concentrated under reduced pressure to give the object product (377 mg).

reactant | tert-Butyl (3R,5S)-3-(hydroxymethyl)-5-[({5-[(2-methoxyethoxy)methyl]-1-(2-methylphenyl)-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]piperidine-1-carboxylate | 534 mg | OC[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C=1N=NN(C1COCCOC)C1=C(C=CC=C1)C)C(=O)OC(C)(C)C | C29H45N5O6
reactant | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
solvent | DMSO | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Tert-butyl (3R,5S)-3-formyl-5-[({5-[(2-methoxyethoxy)methyl]-1-(2-methylphenyl)-1H-1,2,3-triazol-4-yl}carbonyl) (2-methylpropyl)amino]piperidine-1-carboxylate | 377 mg | C(=O)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C=1N=NN(C1COCCOC)C1=C(C=CC=C1)C)C(=O)OC(C)(C)C | C29H43N5O6
